US06858638B2
3-Amino-N-(3-phenyl-1H-indazol-5-yl)benzenesulfonamide can be obtained in the following way: 0.06 ml of an aqueous hydrochloric acid solution is added to a solution of 0.28 g of 3-nitro-N-(3-phenyl-1H-indazol-5-yl)benzenesulfonamide in 15 ml of absolute ethanol and 0.3 ml of water. The reaction mixture is refluxed, then 0.12 g of powdered iron is added in small portions. The reaction mixture is refluxed for 2 hours and is then cooled to a temperature in the region of 20° C. 30 ml of water are added to the mixture, which is filtered through Celite®, and the solid is washed with water then ethyl acetate. The filtrate is basified with an aqueous 32% ammonium hydroxide solution to a pH in the region of 12, and is then extracted with 3 times 20 ml of ethyl acetate. The organic extracts are pooled, washed with 3 times 10 ml of water, dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The solid residue is washed successively with diisopropyl ether then dichloromethane, partially dried and dried. 0.12 g of 3-amino-N-(3-phenyl-1H-indazol-5-yl)benzenesulfonamide is thus obtained in the form of an off-white powder melting at 205° C.

reactant | hydrochloric acid | 0.06 ml | Cl | ClH
reactant | 3-nitro-N-(3-phenyl-1H-indazol-5-yl)benzenesulfonamide | 0.28 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)NC=1C=C2C(=NNC2=CC1)C1=CC=CC=C1 | C19H14N4O4S
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | 0.3 ml | O | H2O
catalyst | iron | 0.12 g | [Fe] | Fe
solvent | water | 30 ml | O | H2O
product | 3-amino-N-(3-phenyl-1H-indazol-5-yl)benzenesulfonamide | 0.12 g | NC=1C=C(C=CC1)S(=O)(=O)NC=1C=C2C(=NNC2=CC1)C1=CC=CC=C1 | C19H16N4O2S
